US08859820B1
A five liter reaction flask was fitted with a mechanical stirring apparatus, a condenser, an addition funnel, and a thermocouple. The reaction flask was flame dried, and then cooled under a nitrogen atmosphere to room temperature. Under a static nitrogen blanket the reaction flask was charged with 10-undecen-1-ol (468 g, 3 mol) and toluene (1 L) while stirring. The contents were cooled to −10° C. and phosphorus tribromide (270 g, 1 mol) was added dropwise. The temperature was maintained at −10° C. with the aid of a Jack-o-matic, and the reaction mixture was aged for one hour. The reaction mixture was subsequently quenched and washed with brine (1 L). The organic layer was removed, and the product was distilled to provide 11-bromo-undec-1-ene (boiling point 95° C. at a pressure of 10 mm Hg).

reactant | 10-undecen-1-ol | 3 mol, 468 g | C(CCCCCCCCC=C)O | C11H22O
reactant | phosphorus tribromide | 1 mol, 270 g | P(Br)(Br)Br | Br3P
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 11-bromo-undec-1-ene | BrCCCCCCCCCC=C | C11H21Br
